US08349824B2
A mixture of 1,2-diamino-4-bromopyridinium 2,4,6-trimethylbenzenesulfonate (4.18 g, 10.8 mmol) and ethyl 2-chloro-2-oxoacetate (2.4 ml, 21.5 mmol) in pyridine (25 ml) is heated for 18 hours to 100° C. The solvent is evaporated and the orange residue triturated with sat. aqueous sodium hydrogencarbonate solution for 2 hours. The solid is collected by filtration, washed several times with water and dried affording ethyl 7-bromo-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylate (1.759 g, 60.5%) as a light pink solid. mp.: 158-160° C. MS: m/z=270.2 (M+H+).

reactant | 1,2-diamino-4-bromopyridinium 2,4,6-trimethylbenzenesulfonate | 10.8 mmol, 4.18 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].N[N+]1=C(C=C(C=C1)Br)N
reactant | ethyl 2-chloro-2-oxoacetate | 21.5 mmol, 2.4 ml | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 7-bromo-[1,2,4]triazolo[1,5-a]pyridine-2-carboxylate | 1.759 g, 60.5% | BrC1=CC=2N(C=C1)N=C(N2)C(=O)OCC | C9H8BrN3O2
